US04367338
The 1-(6'-methoxycarbonyl-n-hex-2-enyl)-4-methyl-1,2,4-triazolidine-3,5-dione (12.4 g, 0.0486 mol) was dissolved in dimethoxyethane (200 ml) and 10% palladium on charcoal (3 g) was added and the resultant mixture was allowed to take up hydrogen (ca. 1100 mls). After the reaction was complete the resultant mixture was filtered through a kieselguhr bed and the filtrate evaporated in vacuo to afford 1-(6'-methoxycarbonyl-n-hexyl)-4-methyl-1,2,4-triazolidine-3,5-dione (12.3 g). m.p. 80°-1°.

reactant | 1-(6'-methoxycarbonyl-n-hex-2-enyl)-4-methyl-1,2,4-triazolidine-3,5-dione | 0.0486 mol, 12.4 g | COC(=O)CCCC=CCN1NC(N(C1=O)C)=O | C11H17N3O4
reactant | hydrogen | ca. 1100 mls | [H][H] | H2
solvent | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
product | 1-(6'-methoxycarbonyl-n-hexyl)-4-methyl-1,2,4-triazolidine-3,5-dione | 12.3 g | COC(=O)CCCCCCN1NC(N(C1=O)C)=O | C11H19N3O4
